US05229516
B. 6-Benzyloxy-α-methyl-1,2,3,4-tetrahydrocarbazole-2-acetic acid ethyl ester
A mixture containing 4-benzyloxyphenylhydrazine hydrochloride (37.0 g, 0.148 mol), α-methyl-3-oxocyclohexane acetic acid (40.0 g, 0.235 mol), glacial acetic acid (650 mL) and H2O (100 mL) is stirred at room temperature under a nitrogen atmosphere for 2.5 hours. The mixture is then refluxed for 20 minutes, cooled and poured into 200 mL of ice/H2O. The precipitate is filtered to give 80 g of red colored crude product.

reactant | 4-benzyloxyphenylhydrazine hydrochloride | 0.148 mol, 37.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | α-methyl-3-oxocyclohexane acetic acid | 0.235 mol, 40.0 g | CC(C(=O)O)C1CC(CCC1)=O | C9H14O3
reactant | acetic acid | 650 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 100 mL | O | H2O
product | 6-Benzyloxy-α-methyl-1,2,3,4-tetrahydrocarbazole-2-acetic acid ethyl ester | 80 g | C(C)OC(C(C1CC=2NC3=CC=C(C=C3C2CC1)OCC1=CC=CC=C1)C)=O | C24H27NO3
